US03956343
Preparation of 3-(5-vinyl-2-isoxazolin-3-yl)pyridine hydrochloride
To a stirred suspension of 27.0 g. of nicotinoyl chloride oxime hydrochloride and 30.2 g. of 1,3-butadiene in 500 ml. of absolute ethanol was added dropwise, over a one hour period, a solution of 29.3 g. of triethylamine in 200 ml. of ethanol. The reaction was stirred at room temperature for one hour, the solvent was removed by evaporation and the residue mixed with water and filtered. The solid was dissolved in diethyl ether and washed several times with water. The ether layer was separated, dried over sodium sulfate and filtered to remove solids (drying agent). Removal of the solvent left a red orange liquid which was dissolved in diethyl ether and HCl gas was bubbled in to form a white solid which was collected by filtration and recrystallized from ethanol. Recrystallization was repeated a second time. The hydrochloride salt melts at 201°-204°C.

reactant | nicotinoyl chloride oxime hydrochloride | Cl.C(C1=CN=CC=C1)(Cl)=NO
reactant | 1,3-butadiene | C=CC=C | C4H6
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 3-(5-vinyl-2-isoxazolin-3-yl)pyridine hydrochloride | Cl.C(=C)C1CC(=NO1)C=1C=NC=CC1 | InChI=1S/C10H10N2O.ClH/c1-2-9-6-10(12-13-9)8-4-3-5-11-7-8;/h2-5,7,9H,1,6H2;1H
